US07456200B2
5-(2-Methoxy-phenyl)-3-(4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole
HBTU (171 mg, 0.45 mmol) and HOBT (8 mg, 0.06 mmol) were added to a solution of 2-methoxy benzoic acid (68 mg, 0.45 mmol) and DIPEA (192 ml, 1.11 mmol) in DMF (3 ml). After 10 min N-hydroxy-2-(4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-acetamidine (100 mg, 0.37 mmol) was added. The reaction mixture was stirred at RT for 7 h and then at 110° C. over night. After cooling the reaction mixture was diluted with water and extracted with CH2Cl2. The organic phase was dried and concentrated. Flash chromatography (heptane/EtOAc 1:2) afforded 1.9 mg (11%) of the desired product.

reactant | HBTU | 0.45 mmol, 171 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.06 mmol, 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-methoxy benzoic acid | 0.45 mmol, 68 mg | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
reactant | DIPEA | 1.11 mmol, 192 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-hydroxy-2-(4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-acetamidine | 0.37 mmol, 100 mg | ONC(CSC1=NN=C(N1C)C=1SC=CC1)=N | C9H11N5OS2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-Methoxy-phenyl)-3-(4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole | 1.9 mg, 11% | COC1=C(C=CC=C1)C1=NC(=NO1)CSC1=NN=C(N1C)C=1SC=CC1 | C17H15N5O2S2
